US07601736B2
8-chloro-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on (250 mg, 1.265 mmol) and Pd(PPh3)4 (146 mg, 0.127 mmol) were dissolved in 12 mL of anhydrous toluene, dropwisely added with 2-(tributylstannyl)furan (0.80 mL, 2.530 mmol) and then heated to reflux for about 15 hours under the nitrogen atmosphere. The mixture was added with 15 mL of 2% KF solution and 20 mL of distilled water while stirring at 0° C. and then extracted twice with 50 mL of methylene chloride. The resulting organic layer was dried using anhydrous sodium sulfate, filtered and concentrated. A silica gel column chromatography (5% EtOAc/MC) was performed on the resulting residue and 225 mg (78%) of 6-methyl-8-furan-2-yl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on was obtained in white solid.

reactant | 8-chloro-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on | 1.265 mmol, 250 mg | ClC=1N=C(C=C2C1C(OCC2)=O)C | C9H8ClNO2
reactant | 2-(tributylstannyl)furan | 2.530 mmol, 0.80 mL | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
reactant | KF | 15 mL | [F-].[K+]
reactant | water | 20 mL | O | H2O
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.127 mmol, 146 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-methyl-8-furan-2-yl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on | 225 mg, 78% | CC=1C=C2C(=C(N1)C=1OC=CC1)C(OCC2)=O | C13H11NO3
